US05441955
8-Methoxyindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 12 and substituting isatoic anhydride for 5-chloroisatoic anhydride and 5-methoxyisatin for 5-fluoroisatin gave the title compound in 24% yield: mp 267.6°-269° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.28 (d, 1H) 8.25 (d, 1H) 7.93 (d, 2H) 7.68-7.78 (m, 1H) 7.37-7.46 (m, 2H) 3.88 (s, 3H); MS (M+H)+ 279.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 5-methoxyisatin | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
product | 8-Methoxyindolo[2,1-b]quinazoline-6,12-dione | 24% yield | COC=1C=C2C(C3=NC4=CC=CC=C4C(N3C2=CC1)=O)=O | C16H10N2O3
